US05656648
N-[4-(2,3,6-Trimethoxy-4-methylphenyl)-2-thiazolyl]-1H-indole-2-carboxamide (method E).
0.16 g of 2-amino-4-(2,3,6-trimethoxy-4-methylphenyl)thiazole is dissolved in 10 ml of DMF. 0.18 g of N-(tert-butyloxycarbonylmethyl)-2-indolinecarboxylic acid, 0.2 ml of triethylamine and 0.38 g of BOP are added, and the reaction mixture is left stirring for 48 hours. 100 ml of water are added, the resulting mixture is extracted with AcOEt, and the organic phase is separated after settling has taken place, dried over sodium sulphate and concentrated under vacuum. The residue is dissolved in 10 ml of CHCl3, 10 ml of TFA are then added and the reaction mixture is stirred at r.t. for 2 hours 30 minutes. It is concentrated under vacuum, adding three times 20 ml of benzene. The residue is dissolved in 20 ml of dimethoxyethane, 0.1 ml of triethylamine and 0.112 g of DDQ are then added and the reaction mixture is left overnight at room temperature. It is concentrated under vacuum, and the residue is taken up in AcOEt and washed successively with 1N NaOH solution, with KHSO4 solution and with sodium chloride solution; the organic phase is separated after settling has taken place, dried over sodium sulphate, filtered and concentrated under vacuum. The residue is chromatographed on silica gel, eluting with CHCl3 /AcOEt (50:50; v/v). The fractions of pure products are concentrated under vacuum, and the residue is solidified in pentane to yield 0.08 g of the expected product; m.p.=200° C.

reactant | 2-amino-4-(2,3,6-trimethoxy-4-methylphenyl)thiazole | 0.16 g | NC=1SC=C(N1)C1=C(C(=C(C=C1OC)C)OC)OC | C13H16N2O3S
reactant | N-(tert-butyloxycarbonylmethyl)-2-indolinecarboxylic acid | 0.18 g | C(C)(C)(C)OC(=O)CN1C(CC2=CC=CC=C12)C(=O)O | C15H19NO4
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.38 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-[4-(2,3,6-Trimethoxy-4-methylphenyl)-2-thiazolyl]-1H-indole-2-carboxamide | 0.08 g | COC1=C(C(=CC(=C1OC)C)OC)C=1N=C(SC1)NC(=O)C=1NC2=CC=CC=C2C1 | C22H21N3O4S
